US04400461
Approximately 10 g (0.06 mole) of adamantane carboxylic acid was added to 150 ml of ethanol. An equivalent number of moles (2.2 g) of sodium hydroxide also was added to the methanol and the solution was stirred for approximately 15 minutes. This resulted in the formation of sodium adamantane carboxylate. To this reaction mixture was added 7.72 g (0.05 mole) of onitrobenzyl chloride. The resulting solution was heated to reflux temperature and stirred at this temperature for 3 hours. The ester thus formed was precipitated by adding 250 ml, in 1 aliquot, of water. The mixture was cooled to ambient temperature and the precipitate was separated by vacuum filtration. The precipitate was recrystallized from 500 ml of a one-to-one by volume solution of ethanol and water to yield approximately 6.4 g of o-nitrobenzyl adamantane carboxylate.

reactant | adamantane carboxylic acid | 0.06 mole, 10 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2.2 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | sodium adamantane carboxylate | C12(CC3CC(CC(C1)C3)C2)C(=O)[O-].[Na+] | InChI=1S/C11H16O2.Na/c12-10(13)11-4-7-1-8(5-11)3-9(2-7)6-11;/h7-9H,1-6H2,(H,12,13);/q;+1/p-1
